US08022062B2
3-tert-Butoxycarbonyl-7-chloro-6-(thiazol-2-ylethynyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Use a method similar to the General Procedure 8 to couple 2-bromo-thiazole (0.09 mL, 0.96 mmol) with 3-tert-butoxycarbonyl-7-chloro-6-ethynyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine (148 mg, 0.48 mmol). Purify by chromatography on silica gel eluting with isohexane/EtOAc (1:0 to 4:1 gradient over 30 min) to give the desired intermediate (165 mg, 89%). MS (ES+) m/z: 389 (M+H)+.

reactant | 2-bromo-thiazole | 0.96 mmol, 0.09 mL | BrC=1SC=CN1 | C3H2BrNS
reactant | 3-tert-butoxycarbonyl-7-chloro-6-ethynyl-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.48 mmol, 148 mg | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C#C | C17H20ClNO2
product | 3-tert-Butoxycarbonyl-7-chloro-6-(thiazol-2-ylethynyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 165 mg, 89% | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)C#CC=2SC=CN2 | C20H21ClN2O2S
